US08383652B2
1.3 mL (1.3 mmol) of aqueous 1 N lithium hydroxide solution are added to a solution of 423 mg (0.87 mmol) of methyl (Z)-3-[2-butoxy-3′-(3-heptylureido)biphenyl-4-yl]-2-methoxyacrylate in 10 mL of tetrahydrofuran. The reaction mixture is stirred for 24 hours at room temperature. After addition of 20 mL of water and acidification with 1 N hydrochloric acid, the reaction medium is extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution and dried over sodium sulfate. The solvents are evaporated off and the residue is then recrystallized from 5 mL of acetonitrile. 348 mg (85%) of (Z)-3-[2-butoxy-3′-(3-heptylureido)biphenyl-4-yl]-2-methoxyacrylic acid are obtained in the form of a white powder. (m.p.=137° C.).

reactant | lithium hydroxide | 1 N | [OH-].[Li+]
reactant | methyl (Z)-3-[2-butoxy-3′-(3-heptylureido)biphenyl-4-yl]-2-methoxyacrylate | 0.87 mmol, 423 mg | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OC)C1=CC(=CC=C1)NC(=O)NCCCCCCC | C29H40N2O5
reactant | water | 20 mL | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (Z)-3-[2-butoxy-3′-(3-heptylureido)biphenyl-4-yl]-2-methoxyacrylic acid | 348 mg, 85% | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)O)/OC)C1=CC(=CC=C1)NC(=O)NCCCCCCC | C28H38N2O5
